US03954860
Phenyl[1-(piperidinosulfonylamino)ethyl]phenylphosphinate ##EQU25##
This compound is obtained in 75% yield in a crude form from a mixture of equimolar quantities of diphenyl phenylphosphonite, acetaldehyde, and piperidinosulfonylamine in chlorobenzene. Recrystallization of a portion twice from acetonitrile gives a white solid product: mp 152°-165°; 31 p nmr(DMSO-d6) -38.4 ppm.

reactant | diphenyl phenylphosphonite | C1(=CC=CC=C1)P(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O2P
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | piperidinosulfonylamine | N1(CCCCC1)S(=O)(=O)N | C5H12N2O2S
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | Phenyl[1-(piperidinosulfonylamino)ethyl]phenylphosphinate | 75% yield | C1(=CC=CC=C1)OP(=O)(C1=CC=CC=C1)C(C)NS(=O)(=O)N1CCCCC1 | C19H25N2O4PS
